US06350749B1
In a mixture of ethanol (23 ml) and toluene (70 ml) was dissolved 1-amino-5-(2,6-dichlorophenyl)cyclohexen-3-one (1.25 g), and to the solution were added 3-oxobutylaldehydedimethylacetal (1.84 g) and granulated potassium hydroxide (303 mg). The mixture was stirred at 115° C. (bath temperature), and to the mixture was added granulated potassium hydroxide (62 mg), 30 minutes later; 1 hour later; and 1.5 hours, respectively. The reaction solution was stirred at the same temperature for 1 hour, cooled and concentrated under reduced pressure, and to the residue were added ethyl acetate (50 ml) and water (15 ml). The mixture was separated and the separated upper layer was washed with saturated brine and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (EtOAc/hexane) and eluted with ethyl acetate/hexane, which was concentrated under reduced pressure. The residue was dissolved in a mixture of ether (4 ml) and ethanol (2 ml), and to the solution was added concentrated hydrochloric acid (0.25 ml). Precipitated crystals were filtered, washed with the same mixed solvent and dried to give 7-(2,6-dichlorophenyl)-4-methyl-5,6,7,8-tetrahydroquinolin-5-one hydrochloride (0.75 g) as colorless crystals.

reactant | 1-amino-5-(2,6-dichlorophenyl)cyclohexen-3-one | 1.25 g | NC1=CC(CC(C1)C1=C(C=CC=C1Cl)Cl)=O | C12H11Cl2NO
reactant | potassium hydroxide | 303 mg | [OH-].[K+]
reactant | potassium hydroxide | 62 mg | [OH-].[K+]
solvent | ethanol | 23 ml | C(C)O | C2H6O
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | 7-(2,6-dichlorophenyl)-4-methyl-5,6,7,8-tetrahydroquinolin-5-one hydrochloride | 0.75 g | Cl.ClC1=C(C(=CC=C1)Cl)C1CC(C=2C(=CC=NC2C1)C)=O | InChI=1S/C16H13Cl2NO.ClH/c1-9-5-6-19-13-7-10(8-14(20)15(9)13)16-11(17)3-2-4-12(16)18;/h2-6,10H,7-8H2,1H3;1H
